US07462639B2
N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-2-(2-methoxy-phenoxy)-acetamide
N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-2-(2-methoxy-phenoxy)-acetamide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and (2-methoxyphenoxy)acetic acid (161 mg, 0.88 mmol). The title compound was obtained as yellow powder (28 mg, 7%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | (2-methoxyphenoxy)acetic acid | 0.88 mmol, 161 mg | COC1=C(OCC(=O)O)C=CC=C1 | C9H10O4
product | N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-2-(2-methoxy-phenoxy)-acetamide | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(COC3=C(C=CC=C3)OC)=O)(C)C)=O | C25H26N6O4
